*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXN100ARA271MH70G
*//   Date        : 2024/11/12
*//   Version     : 1.0
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXN100ARA271MH70G_20deg-C 1 2

C1 4 2 2.10e-04
C2 5 2 7.24e-05
C3 6 2 1.33e-05
R1 3 4 1.55e-02
R2 4 5 6.31e-02
R3 5 6 2.74e+00
L1 1 3 3.40e-09

.ENDS
*$
